US06939874B2
Step A: Preparation of 4-(2-methoxy-4-nitro-phenyl)-morpholine
To a mixture of 1-bromo-2-methoxy-4-nitro-benzene (2.5 g, 10.8 mmol), Pd2(dba)3 (0.124 g, 0.215 mmol), NaOt-Bu (1.55 g, 16.2 mmol) and BINAP (0.202 g, 0.323 mmol) in toluene (20 mL) at 20° C. was added morpholine (1.5 mL, 17.2 mmol) over 10 min. The mixture was stirred at 80° C. for 3 h when TLC indicated no starting material remained. The mixture was evaporated under reduced pressure followed by the addition of H2O (50 mL). CH2Cl2 extraction (3×15 mL), followed by drying of the combined organic layers with MgSO4 afforded, after filtration and concentration, an orange oil. Chromatography on silica gel (97:3 CH2Cl2/MeOH) yielded pure compound.

reactant | 1-bromo-2-methoxy-4-nitro-benzene | 10.8 mmol, 2.5 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | NaOt-Bu | 16.2 mmol, 1.55 g | CC(C)(C)[O-].[Na+]
reactant | BINAP | 0.323 mmol, 0.202 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | morpholine | 17.2 mmol, 1.5 mL | N1CCOCC1 | C4H9NO
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.215 mmol, 0.124 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(2-methoxy-4-nitro-phenyl)-morpholine | COC1=C(C=CC(=C1)[N+](=O)[O-])N1CCOCC1 | C11H14N2O4
